data/oMe_Silver.jsonl
{"reaction_id": "NR-204_2-C_3-C(C)C","level": "hard","name": "Nenitzescu Indole Synthesis","reactants_smiles": ["O=C1C=CC(=O)C=C1","C=C(N([H])C)C(=O)OC(C)C"],"products_smiles": ["C1=C(O)C=CC2=C1C(C(=O)C(C)C)=CN(C)2"],"conditions": "Acetic acid","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=C(C=CC(C1C(C(C2=CC=CC=C2)=[NH+](C))C(=O)O(C(C)C))=O)O","step_weight": 0,"rationale": "The β-aminocrotonate enamine acts as a nucleophile, attacking the electrophilic β-carbon of 1,4-benzoquinone due to strong conjugation and electron withdrawal by the carbonyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=C(C=CC(C1C(=C(C2=CC=CC=C2)[NH](C))C(=O)O(C(C)C))=O)O","step_weight": 0,"rationale": "Proton transfer stabilizes the adduct by neutralizing charge and preparing the intermediate for intramolecular cyclization under acidic conditions."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)N3(C))C(=O)O(C(C)C))O)O","step_weight": 0,"rationale": "The amine nitrogen attacks the carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by conjugation and acid activation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)N3(C))C(=O)O(C(C)C))[OH2+])O","step_weight": 0,"rationale": "Protonation of the hydroxyl group creates a good leaving group, facilitating subsequent elimination to form the indole ring system."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)[N+]=3(C))C(=O)O(C(C)C)))O","step_weight": 0,"rationale": "Loss of water occurs because the protonated hydroxyl is an excellent leaving group, driving formation of the iminium intermediate and partial ring aromatization."},{"step": 6,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1=C(C=CC3(=C1C(=C(C2=CC=CC=C2)N3(C))C(=O)O(C(C)C)))O","step_weight": 0,"rationale": "Deprotonation restores full aromaticity of the indole core, a thermodynamically favorable step that completes the synthesis."}],"description": "Under acidic conditions, the β-aminocrotonate undergoes Michael addition to 1,4-benzoquinone, forming a conjugated adduct. Subsequent intramolecular nucleophilic attack and proton transfers enable cyclization to the indole core, followed by elimination steps to restore aromaticity and yield the 5-hydroxyindole product."}
{"reaction_id": "NR-310_1-c1ccccc1_2-C_3-C_4-C(F)(F)F_5-c1occc1_6-OS(=O)(=O)C(F)(F)F_7-P(c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1","level": "medium","name": "Tsuji-Trost Reaction","reactants_smiles": ["c1ccccc1C(C)=C(C)C(C(F)(F)F)(c1occc1)(OS(=O)(=O)C(F)(F)F)","N#CCC#N","[Pd]"],"products_smiles": ["c1ccccc1C(C)=C(C)C(C(F)(F)F)(c1occc1)C(C#N)C#N"],"conditions": "Ligand, Base (e.g. NaH), Pd","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "C(c1ccccc1)(C)=C(C)C([Pd](OS(=O)(=O)C(F)(F)F)(P(c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(P(c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1))(C(F)(F)F)(c1occc1)","step_weight": 0,"rationale": "Pd(0) coordinates to the allylic system and undergoes oxidative addition due to the good leaving group ability and stabilization of the resulting π-allyl–Pd(II) complex by conjugation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C#N)C#N","step_weight": 0,"rationale": "The base deprotonates malononitrile, as the α-proton is highly acidic due to strong electron-withdrawing cyano groups stabilizing the resulting carbanion."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "N#CC(C#N)C(C(F)(F)F)(c1occc1)/C1(C)[Pd](P(c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(P(c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)C1(C)(c1ccccc1)","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic π-allyl–Pd complex at the less hindered terminus, favored by orbital overlap and reduced steric hindrance."},{"step": 4,"type": "dissociation","subtype": "dissociation","intermediate_smiles": "c1ccccc1C(C)=C(C)C(C(F)(F)F)(c1occc1)C(C#N)C#N","step_weight": 0,"rationale": "Product dissociates via reductive elimination, regenerating Pd(0) due to the thermodynamic stability of the C–C bond and the catalyst turnover requirement."}],"description": "In the Tsuji–Trost reaction, Pd(0) first undergoes oxidative addition to the allylic substrate, forming a π-allyl–Pd complex. The base deprotonates malononitrile to generate a stabilized nucleophile, which attacks the π-allyl complex. Reductive elimination releases the substituted product and regenerates Pd(0)."}
